US08071592B2
(a) 4-(Methyloxy)-2-[(E)-2-phenylethenyl]-5,8-dihydropyrido[2,3-d]pyrimidin-7(6H)-one
To a suspension of 4-chloro-2-[(E)-2-phenylethenyl]-5,8-dihydropyrido[2,3-d]pyrimidin-7(6H)-one (0.45 g, 1.58 mmol) in MeOH (10 mL) was added NaOMe (0.094 g, 1.74 mmol). The reaction mixture was heated at reflux for 3 h, at which time an additional 0.10 g NaOMe was added and refluxing was continued. This was repeated two more times over 9 h. After the disappearance of all starting material (LCMS), the reaction was concentrated onto silica gel and purified by column chromatography (silica gel) using a DCM/DCM-MeOH—NH4OH (90:10:1) gradient to yield the desired product as an off-white solid (0.404 g, 91%).

reactant | 4-chloro-2-[(E)-2-phenylethenyl]-5,8-dihydropyrido[2,3-d]pyrimidin-7(6H)-one | 1.58 mmol, 0.45 g | ClC=1C2=C(N=C(N1)\C=C\C1=CC=CC=C1)NC(CC2)=O | C15H12ClN3O
reactant | NaOMe | 1.74 mmol, 0.094 g | C[O-].[Na+]
reactant | NaOMe | 0.10 g | C[O-].[Na+]
solvent | MeOH | 10 mL | CO | CH4O
product | 4-(Methyloxy)-2-[(E)-2-phenylethenyl]-5,8-dihydropyrido[2,3-d]pyrimidin-7(6H)-one | 0.404 g, 91% | COC=1C2=C(N=C(N1)\C=C\C1=CC=CC=C1)NC(CC2)=O | C16H15N3O2
